US07226931B2
Step 4. (R)-4-{[1-(1-Benzyl-pyrrolidin-3-yl)-cyclopropyl]-methyl-amino}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of (R)-1-(1-benzyl-pyrrolidin-3-yl)-cyclopropylamine (18.6 g, 87 mmol) and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (22.7 g, 113 mmol) in THF (500 mL) was added glacial HOAc (31 mL). The solution was stirred at room temperature for one hour and then NaBH(OAc)3 (65 g, 306 mmol) was added. The resulted suspension was stirred at room temperature overnight before 37% aqueous solution of formaldehyde (30 mL, 262 mmol) was added. The reaction mixture was allowed to stir for 3 hrs and completed, then added aqueous 20% NaOH (300 mL) at 0° C. The mixture was allowed to stir for 2 h, and layers were separated. The aqueous layer was extracted with EtOAc (3×300 mL). The combined organic phase was dried over sodium sulfate, concentrated in vacuo. The residue was purified by flash chromatography (gradient eluation, 1% to 10% methanol in dichloromethane) to give the title compound as a pale yellow oil (27 g): ESI MS m/z 414.3 (M+H+). 1H NMR (400 MHz, CDCl3) δ 7.33-7.23 (m, 5H), 4.24-4.02 (m, 2H), 3.88-3.80 (m, 1H), 3.60 (d, JAB=12.8 Hz, 1H), 3.53 (d, JAB=12.8 Hz, 1H), 2.82-2.57 (m, 5H), 2.31 (s, 3H), 2.28-2.22 (m, 1H), 1.94-1.80 (m, 4H), 1.44 (s, 9H), 1.42-1.28 (m, 3H), 0.55-0.53 (m, 4H). The chiral purity of the product was analyzed by Chiral-Cel OD column (0.46 cm×25 cm, Daicel Chemical industries, Ltd, column catalog no. OD00CE-E1031) with acetonitrile in the presence of 0.1% diethylamine as mobile phase (flow rate 1 mL/min; retention time 5.23 min desired, 5.93 isomer) to be 95% ee.

reactant | (R)-1-(1-benzyl-pyrrolidin-3-yl)-cyclopropylamine | 87 mmol, 18.6 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)C1(CC1)N | C14H20N2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 113 mmol, 22.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | NaBH(OAc)3 | 306 mmol, 65 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | formaldehyde | 262 mmol, 30 mL | C=O | CH2O
reactant | NaOH | 300 mL | [OH-].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | HOAc | 31 mL | CC(=O)O | C2H4O2
product | (R)-4-{[1-(1-Benzyl-pyrrolidin-3-yl)-cyclopropyl]-methyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 27 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C1(CC1)[C@H]1CN(CC1)CC1=CC=CC=C1 | C25H39N3O2
